* Source File: L298Blk.asc
* Developed: ETech (eetech00@yahoo.com)
* Created: Jan 13 2017
* Revision: NA
*
* This L298 spice behavioral model was tested
* with LTSpice. Temperature is not modeled.
*
* ST Microelectronics
* L298 DUAL FULL-BRIDGE DRIVER
*
* block symbol definitions
.subckt L298 ENA ENB IN1 IN2 IN3 IN4 OUT1 OUT2 OUT3 OUT4 SENA SENB VGND VS VSS
V1 1 VGND 1
XX9 50 40 OUT1 SENA VGND VS2 dvroutchanblk
XX10 70 60 OUT2 SENA VGND VS2 dvroutchanblk
XX11 90 80 OUT3 SENB VGND VS2 dvroutchanblk
XX12 110 100 OUT4 SENB VGND VS2 dvroutchanblk
B1 VSS1 VGND V=V(1)*If(V(VSS)>4.49,V(VSS),0)
R4 VSS VGND 1e8
E1 VSS2 VGND VSS1 VGND 1
C1 10 VGND 10p
R1 VSS1 10 100
B2 VS1 VGND V=V(1)*If(V(VS)>(V(VSS)+2.5),V(VS),0)
R5 VS VGND 1e8
E2 VS2 VGND VS1 VGND 1
C2 20 VGND 10p
R2 VS1 20 100
B3 REF2R3 VGND V=V(1)*If(V(VSS)>4.49,2.3,0)
E3 2R3 VGND REF2R3 VGND 1
C3 30 VGND 10p
R3 REF2R3 30 100
XX1 IN1 2R3 40 VSS2 VGND dvrinchanblk
XX2 ENA 2R3 50 VSS2 VGND dvrinchanblk
XX3 IN2 2R3 60 VSS2 VGND dvrinchanblk
XX4 ENA 2R3 70 VSS2 VGND dvrinchanblk
XX5 IN3 2R3 80 VSS2 VGND dvrinchanblk
XX6 ENB 2R3 90 VSS2 VGND dvrinchanblk
XX7 IN4 2R3 100 VSS2 VGND dvrinchanblk
XX8 ENB 2R3 110 VSS2 VGND dvrinchanblk
**

.subckt dvroutchanblk ENA IN OUT SENSE VGND VS1
Q1 VS1 OUT1 OUT 0 2N3055
Q2 OUT OUT2 SENSE 0 2N3055
A1 0 ENA 0 INA 0 0 IN1 0 AND tau={tau} tripdt={tdt}
A2 0 _INA 0 ENA 0 0 IN2 0 AND tau={tau} tripdt={tdt}
AE1 IN 0 0 0 0 _INA INA 0 BUF tau={tau} tripdt={tdt}
XX4 IN1 OUT1 VGND VS1 outbuf
XX5 IN2 OUT2 VGND VS1 outbuf
.param tau = 50n
.param tdt = 10n
.lib standard.bjt
.ends dvroutchanblk

.subckt dvrinchanblk IN- IN+ OUT VCC VGND
B1 HYS IN+ V=If(V(OUT1)>((V(HI)+V(LO))*0.5),{VHYS},0)*V(1)
B2 4 VGND V=If(V(HYS,IN-)>0,V(HI),V(LO))*V(1)
R3 OUT1 4 10
C2 OUT1 VGND 10p
R2 IN+ VGND 1G
R5 VCC VGND 1G
V2 VCC HI 0
V3 LO VGND 0
V1 1 VGND 1
C1 1 VGND 10p
B3 5 VGND V=If(V(OUT1)>(V(HI)*0.5),0,1)*V(1)
R4 OUT 5 10
C3 OUT VGND 10p
R1 IN- VGND 1G
.param VHYS=800m
.ends dvrinchanblk

.subckt outbuf IN OUT VGND VS
S1 VS OUT CTL _CTL SW1 OFF
A1 IN 0 0 0 0 _CTL CTL 0 BUF tau={tau} tripdt={tdt}
R2 OUT VGND 2k
.param Rout=1m
.param Ron1=10 Ilim1=6.8m
.model SW1 SW Ron={Ron1} Vt=.5 Vh=-0.3
.IC V(CTL)=0
.param tau = 50n
.param tdt = 10n
.ends outbuf

.ends L298